* NGSPICE file created from Nmos_Comparator.ext - technology: gf180mcuD

.subckt nfet$5 a_360_0# a_238_0# a_38_n60# a_n84_0#
X0 a_238_0# a_38_n60# a_n84_0# a_360_0# nfet_03v3 ad=2.44p pd=9.22u as=2.44p ps=9.22u w=4u l=1u
C0 a_38_n60# a_238_0# 0.06967f
C1 a_n84_0# a_238_0# 0.11655f
C2 a_n84_0# a_38_n60# 0.06967f
C3 a_238_0# a_360_0# 0.54275f
C4 a_n84_0# a_360_0# 0.1615f
C5 a_38_n60# a_360_0# 0.45162f
.ends

.subckt nfet a_342_n60# a_238_0# a_542_0# a_38_n60# a_n84_0# a_664_0#
X0 a_542_0# a_342_n60# a_238_0# a_664_0# nfet_03v3 ad=1.525p pd=6.22u as=0.65p ps=3.02u w=2.5u l=1u
X1 a_238_0# a_38_n60# a_n84_0# a_664_0# nfet_03v3 ad=0.65p pd=3.02u as=1.525p ps=6.22u w=2.5u l=1u
C0 a_38_n60# a_n84_0# 0.03868f
C1 a_342_n60# a_542_0# 0.03868f
C2 a_238_0# a_38_n60# 0.04323f
C3 a_542_0# a_238_0# 0.06881f
C4 a_342_n60# a_238_0# 0.04323f
C5 a_342_n60# a_38_n60# 0.04027f
C6 a_238_0# a_n84_0# 0.06881f
C7 a_542_0# a_664_0# 0.31314f
C8 a_238_0# a_664_0# 0.0267f
C9 a_n84_0# a_664_0# 0.10145f
C10 a_342_n60# a_664_0# 0.42024f
C11 a_38_n60# a_664_0# 0.42024f
.ends

.subckt nfet$6 a_360_0# a_238_0# a_38_n60# a_n84_0#
X0 a_238_0# a_38_n60# a_n84_0# a_360_0# nfet_03v3 ad=2.135p pd=8.22u as=2.135p ps=8.22u w=3.5u l=1u
C0 a_38_n60# a_238_0# 0.05934f
C1 a_n84_0# a_238_0# 0.09927f
C2 a_n84_0# a_38_n60# 0.05934f
C3 a_238_0# a_360_0# 0.46621f
C4 a_n84_0# a_360_0# 0.14148f
C5 a_38_n60# a_360_0# 0.452f
.ends

.subckt pfet$3 a_242_n60# a_38_n60# a_n92_0# a_342_0# a_138_0# w_n230_n138# VSUBS
X0 a_342_0# a_242_n60# a_138_0# w_n230_n138# pfet_03v3 ad=3.25p pd=11.3u as=1.3p ps=5.52u w=5u l=0.5u
X1 a_138_0# a_38_n60# a_n92_0# w_n230_n138# pfet_03v3 ad=1.3p pd=5.52u as=3.25p ps=11.3u w=5u l=0.5u
C0 w_n230_n138# a_242_n60# 0.14728f
C1 a_38_n60# a_138_0# 0.06079f
C2 a_n92_0# w_n230_n138# 0.04942f
C3 a_342_0# a_242_n60# 0.0546f
C4 a_138_0# a_242_n60# 0.06079f
C5 a_38_n60# a_242_n60# 0.05023f
C6 a_138_0# a_n92_0# 0.25995f
C7 a_342_0# w_n230_n138# 0.63487f
C8 a_138_0# w_n230_n138# 0.00678f
C9 a_38_n60# a_n92_0# 0.0546f
C10 a_38_n60# w_n230_n138# 0.1418f
C11 a_138_0# a_342_0# 0.25995f
C12 a_342_0# VSUBS 0.02019f
C13 a_138_0# VSUBS 0.02019f
C14 a_n92_0# VSUBS 0.15079f
C15 a_242_n60# VSUBS 0.1204f
C16 a_38_n60# VSUBS 0.12588f
C17 w_n230_n138# VSUBS 3.89693f
.ends

.subckt pfet$1 a_242_n60# a_38_n60# a_n92_0# a_342_0# a_138_0# w_n230_n138# VSUBS
X0 a_342_0# a_242_n60# a_138_0# w_n230_n138# pfet_03v3 ad=5.3625p pd=17.8u as=2.145p ps=8.77u w=8.25u l=0.5u
X1 a_138_0# a_38_n60# a_n92_0# w_n230_n138# pfet_03v3 ad=2.145p pd=8.77u as=5.3625p ps=17.8u w=8.25u l=0.5u
C0 w_n230_n138# a_242_n60# 0.14711f
C1 a_38_n60# a_138_0# 0.10944f
C2 a_n92_0# w_n230_n138# 0.0839f
C3 a_342_0# a_242_n60# 0.0983f
C4 a_138_0# a_242_n60# 0.10944f
C5 a_38_n60# a_242_n60# 0.05023f
C6 a_138_0# a_n92_0# 0.46802f
C7 a_342_0# w_n230_n138# 1.13797f
C8 a_138_0# w_n230_n138# 0.00714f
C9 a_38_n60# a_n92_0# 0.0983f
C10 a_38_n60# w_n230_n138# 0.14163f
C11 a_138_0# a_342_0# 0.46802f
C12 a_342_0# VSUBS 0.0216f
C13 a_138_0# VSUBS 0.0216f
C14 a_n92_0# VSUBS 0.25675f
C15 a_242_n60# VSUBS 0.11976f
C16 a_38_n60# VSUBS 0.12524f
C17 w_n230_n138# VSUBS 5.90712f
.ends

.subckt nfet$2 a_360_0# a_238_0# a_38_n60# a_n84_0#
X0 a_238_0# a_38_n60# a_n84_0# a_360_0# nfet_03v3 ad=1.525p pd=6.22u as=1.525p ps=6.22u w=2.5u l=1u
C0 a_38_n60# a_238_0# 0.03868f
C1 a_n84_0# a_238_0# 0.06471f
C2 a_n84_0# a_38_n60# 0.03868f
C3 a_238_0# a_360_0# 0.31314f
C4 a_n84_0# a_360_0# 0.10145f
C5 a_38_n60# a_360_0# 0.45304f
.ends

.subckt Nmos_Comparator vout vss v_6_9_n inn inp vdd iref i_bias_n v_3_7_n v_5_11_n
Xnfet$5_0 VSUBS i_bias_n inn v_5_11_n nfet$5
Xnfet$5_1 VSUBS i_bias_n inp m1_n80_520# nfet$5
Xnfet_0 iref i_bias_n VSUBS iref VSUBS VSUBS nfet
Xnfet$6_0 VSUBS VSUBS v_3_7_n m2_780_n40# nfet$6
Xpfet$3_0 m1_n80_520# m1_n80_520# vdd vdd v_5_11_n vdd VSUBS pfet$3
Xpfet$3_1 v_5_11_n v_5_11_n vdd vdd m1_n80_520# vdd VSUBS pfet$3
Xnfet$6_1 VSUBS VSUBS v_3_7_n v_3_7_n nfet$6
Xpfet$3_2 v_5_11_n v_5_11_n vdd vdd v_5_11_n vdd VSUBS pfet$3
Xpfet$1_0 m1_n80_520# m1_n80_520# vdd vdd m2_780_n40# vdd VSUBS pfet$1
Xpfet$3_3 m1_n80_520# m1_n80_520# vdd vdd m1_n80_520# vdd VSUBS pfet$3
Xpfet$1_1 v_5_11_n v_5_11_n vdd vdd v_3_7_n vdd VSUBS pfet$1
Xnfet$2_0 VSUBS VSUBS iref iref nfet$2
C0 inp m2_780_n40# 0
C1 vdd v_3_7_n 0.50546f
C2 inn m2_780_n40# 0
C3 m1_n80_520# m2_780_n40# 0.47765f
C4 vdd v_5_11_n 1.15043f
C5 vdd iref 0.00126f
C6 v_3_7_n v_5_11_n 0.67704f
C7 iref v_3_7_n 0.06881f
C8 iref v_5_11_n 0.00109f
C9 i_bias_n inp 0.01187f
C10 i_bias_n inn 0.01187f
C11 i_bias_n m1_n80_520# 0.05008f
C12 vdd m2_780_n40# 0.48642f
C13 v_3_7_n m2_780_n40# 0.03996f
C14 i_bias_n vdd 0
C15 i_bias_n v_3_7_n 0.26768f
C16 i_bias_n v_5_11_n 0.01767f
C17 i_bias_n iref 0.12584f
C18 m1_n80_520# inp 0.05053f
C19 inn inp 0.01857f
C20 m1_n80_520# inn 0.00608f
C21 vdd inp 0.01512f
C22 v_3_7_n inp 0.09411f
C23 inp v_5_11_n 0.00327f
C24 iref inp 0
C25 vdd inn 0.01578f
C26 vdd m1_n80_520# 1.11502f
C27 inn v_3_7_n 0.07239f
C28 m1_n80_520# v_3_7_n 0.16408f
C29 inn v_5_11_n 0.05164f
C30 m1_n80_520# v_5_11_n 1.35424f
C31 m1_n80_520# iref 0
C32 v_3_7_n VSUBS 3.21585f
C33 m2_780_n40# VSUBS 1.63143f
C34 v_5_11_n VSUBS 2.02522f
C35 vdd VSUBS 32.33095f
C36 m1_n80_520# VSUBS 1.98973f
C37 iref VSUBS 2.30646f
C38 inp VSUBS 0.45398f
C39 i_bias_n VSUBS 1.73618f
C40 inn VSUBS 0.46186f
.ends

