** sch_path: /foss/designs/libs/core_analog/Comparator/Nmos_Comparator.sch
**.subckt Nmos_Comparator vdd vout inp vss inn iref
*.ipin vss
*.ipin vdd
*.ipin iref
*.ipin inn
*.ipin inp
*.opin vout
XM3 net1 net1 vss vss nfet_03v3 L=1u W=3.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 vout net1 vss vss nfet_03v3 L=1u W=3.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM5 net2 inn net3 vss nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM6 net4 inp net3 vss nfet_03v3 L=1u W=4u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM7 net1 net2 vdd vdd pfet_03v3 L=0.5u W=16.5u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM9 net4 net4 vdd vdd pfet_03v3 L=0.5u W=10u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM11 net2 net2 vdd vdd pfet_03v3 L=0.5u W=10u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM12 vout net4 vdd vdd pfet_03v3 L=0.5u W=16.5u nf=4 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
x1 iref vss iref vss unit_nmos M=1
x2 net3 vss iref vss unit_nmos M=2
XM1 net4 net2 vdd vdd pfet_03v3 L=0.5u W=10u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 net2 net4 vdd vdd pfet_03v3 L=0.5u W=10u nf=2 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
**** begin user architecture code


.control
*save all
op
show all

** RUN SIMULATIONS **
dc vinn -2 5 0.01

plot @m.x1.xm5.m0[vds] - @m.x1.xm5.m0[vgs] + @m.x1.xm5.m0[vth]
*plot @m.x1.xm5.m0[vgs]
*plot @m.x1.xm5.m0[vds]
*plot @m.x1.xm5.m0[vth]


* Export results to file
write nmos_Comparator_saturation.txt


write NMOS_comparator_cm_tb.raw
.endc


**** end user architecture code
**.ends

* expanding   symbol:  libs/core_analog/unit_nmos/unit_nmos.sym # of pins=4
** sym_path: /foss/designs/libs/core_analog/unit_nmos/unit_nmos.sym
** sch_path: /foss/designs/libs/core_analog/unit_nmos/unit_nmos.sch
.subckt unit_nmos drain sub gate source
*.iopin drain
*.iopin source
*.iopin sub
*.iopin gate
XM1 drain gate source sub nfet_03v3 L=1u W=2.5u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m={M}
**** begin user architecture code

.param M=1

**** end user architecture code
.ends

.end
